US07612114B2
(R)-6-{2-{[4-(2-Azocan-1-ylethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester (20 mg) and 1-azocan-1-yl-2-chloroethanone (15 mg) according to an analogous synthetic method to Example 404 and purified by LC-MS, the title compound (9.6 mg) was obtained.

reactant | pivalic acid (R)-6-{2-[ethyl(4-hydroxybenzoyl)amino]-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-yl ester | 20 mg | C(C)N(C1=C(C=CC(=C1)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O)C(C1=CC=C(C=C1)O)=O | C31H35NO5
reactant | 1-azocan-1-yl-2-chloroethanone | 15 mg | N1(CCCCCCC1)C(CCl)=O | C9H16ClNO
product | (R)-6-{2-{[4-(2-Azocan-1-ylethoxy)benzyl]ethylamino}-4-methoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 9.6 mg | N1(CCCCCCC1)CCOC1=CC=C(CCCNC2=C(C=CC(=C2)OC)[C@H]2CC=3C=CC(=CC3CC2)O)C=C1 | C35H46N2O3
